*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_SVOD_0V8_BOOST_lpe.spi
#else
.include ../../../work/xsch/LELO_SVOD_0V8_BOOST.spice
#endif
.include ../../../design/1812PS.lib
.include ../../../design/XGL6030.lib
*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5
.OPTIONS SAVECURRENTS
*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VDD      VDD  0 dc 40m
VC_CLK   VC_CLK 0 dc 420m
R1       OUT    0 8k
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.PROBE p(R1)
.save i(v.xdut.v1) i(v.xdut.v2)
.save @m.xdut.xm3.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xdut.xm5.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(xdut.TEG)
.save v(xdut.VOUT_0V8)
.save v(xdut.VX)
.save v(xdut.HSS1_1V8)
.save v(xdut.L)
.save v(xdut.vc)
.save v(xdut.x3.vg1)
.save v(xdut.x3.net3)
.save v(xdut.OFF)      
.save all
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.nodeset v(xdut.TEG) = 0.02
.nodeset v(xdut.VOUT_0V8) = 0.8
.nodeset v(xdut.x1.vc) = 0.1

.control
set num_threads=8
set color0=white
set color1=black
unset askquit


tran 1u 200u
write
quit


.endc

.end
